US07312358B2
To a solution of 2-nitrobenzyl alcohol (500 g, 3.2 mol) in MeOH (2.5 L) was added Pd/C (40 g) under N2 and refluxed for 30 min. Hydrazine hydrate (500 mL) was added slowly with stirring. The resulting mixture was stirred under reflux for another 2 h. The solid formed was filtered, concentrated and the crude residue was extracted with ethyl acetate (2×500 mL). The organic layer was washed with brine and dried over MgSO4. After evaporation of the solvents, 2-aminobenzyl alcohol (357 g, 89% yield) was isolated as pale yellow solid.

reactant | 2-nitrobenzyl alcohol | 3.2 mol, 500 g | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | Hydrazine hydrate | 500 mL | O.NN
solvent | MeOH | 2.5 L | CO | CH4O
catalyst | Pd/C | 40 g | [Pd] | Pd
product | 2-aminobenzyl alcohol | 357 g, 89% yield | NC1=C(CO)C=CC=C1 | C7H9NO
